US09056850B2
2-(4-Fluorophenyl)thiophene
To a stirred solution of 2-bromothiophene (100 g, 613.3 mol) in dry THF (220 mL), at 50° C., under a nitrogen atmosphere were added Pd(OAc)2 (13.8 mg, 0.06 mmol) and 1,3-bis(diphenylphosphino)propane (25.3 mg, 0.06 mmol). After 5 minutes, 1.05 M 4-fluorophenylmagnesium bromide in THF (613 mL) was added over 6.0 hours (TOF=1750). The resulting mixture was stirred for 1 hour at 60° C., then cooled to 30° C. and slowly poured into a 2M HCl aqueous solution (600 mL) in an ice bath. DCM (300 mL) was added and the resulting mixture was separated, and washed with brine (200 mL). MgSO4 (20 g) and activated charcoal (10 g) were added and the resulting mixture was stirred. The mixture was then filtered, and the filtrate concentrated to yield the title compound as a residue, which was used without further purification.

reactant | 2-bromothiophene | 613.3 mol, 100 g | BrC=1SC=CC1 | C4H3BrS
reactant | 1,3-bis(diphenylphosphino)propane | 0.06 mmol, 25.3 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | 4-fluorophenylmagnesium bromide | 1.05 M | FC1=CC=C(C=C1)[Mg]Br
reactant | HCl | 2M, 600 mL | Cl | ClH
solvent | THF | 220 mL | C1CCOC1 | C4H8O
solvent | THF | 613 mL | C1CCOC1 | C4H8O
catalyst | Pd(OAc)2 | 0.06 mmol, 13.8 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Fluorophenyl)thiophene | FC1=CC=C(C=C1)C=1SC=CC1 | C10H7FS
